US20010007875A1
70 g of the ethyl diester of chloro-[3-(4-fluorophenoxy)propyl]propanedioic acid in a mixture of 200 ml of 6 N hydrochloric acid and 200 ml of glacial acetic acid are heated under reflux for 20 h. 600 ml of water and 400 ml of ethyl acetate are then added. The organic phase is washed 5 times with 500 ml of water, dried over sodium sulfate and then evaporated to give 56 g of 2-chloro-5-(4-fluorophenoxy)pentanoic acid in the form of an oil which is used without further purification.

reactant | chloro-[3-(4-fluorophenoxy)propyl]propanedioic acid | ClC(C(=O)O)(C(=O)O)CCCOC1=CC=C(C=C1)F | C12H12ClFO5
reactant | water | 600 ml | O | H2O
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 6 N, 200 ml | Cl | ClH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2-chloro-5-(4-fluorophenoxy)pentanoic acid | 56 g | ClC(C(=O)O)CCCOC1=CC=C(C=C1)F | C11H12ClFO3
